US07208490B2
rel-(2R,4S,4aS)-1,2,4,4a-tetrahydro-4-methyl-8-nitro-2-propylspiro[[1,4]oxazino[4,3-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′,4′,6′(1′H,3′H)-trione
2-(cis-2-methyl-6-propylmorpholin-4-yl)-5-nitrobenzaldehyde (446 mg, 1.53 mol) is combined with barbituric acid (217 mg, 1.53 mmol, Aldrich) in a vial with MeOH (6 mL). The sealed reaction is heated to 80° C. on a shaker block for 19 hours and then the solvent is removed by rotary evaporation. The product is purified 2× on a Biotage Flash 75M using 10% MTBE in CH2Cl2 eluent. The product is dried under vacuum at 100° C. yielding a yellow-orange solid. 1H NMR (400 MHz, ACETONITRILE-D3) δ ppm 0.95, 1.00, 1.47, 3.04, 3.34, 3.56, 3.95, 4.14, 6.85, 7.77, 8.02, 9.19.

reactant | 2-(cis-2-methyl-6-propylmorpholin-4-yl)-5-nitrobenzaldehyde | 1.53 mol, 446 mg | C[C@@H]1CN(C[C@@H](O1)CCC)C1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C15H20N2O4
reactant | barbituric acid | 1.53 mmol, 217 mg | N1C(=O)NC(=O)CC1=O | C4H4N2O3
solvent | MeOH | 6 mL | CO | CH4O
product | rel-(2R,4S,4aS)-1,2,4,4a-tetrahydro-4-methyl-8-nitro-2-propylspiro[[1,4]oxazino[4,3-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′,4′,6′(1′H,3′H)-trione | C[C@@H]1O[C@@H](CN2[C@H]1C1(C(NC(NC1=O)=O)=O)CC1=CC(=CC=C21)[N+](=O)[O-])CCC | C19H22N4O6
